US04973474
2,4-Diamino-6-methoxypyrimidine 3-oxide
1.8 g of sodium are dissolved in 150 ml of methanol. 15 of 2,4-diamino-6-(2,4-dichlorophenoxy)pyrimidine 3-oxide are added and the reaction mixture is refluxed for 15 days.

reactant | sodium | 1.8 g | [Na] | Na
reactant | 2,4-diamino-6-(2,4-dichlorophenoxy)pyrimidine 3-oxide | NC1=NC(=CC(=[N+]1[O-])N)OC1=C(C=C(C=C1)Cl)Cl | C10H8Cl2N4O2
solvent | methanol | 150 ml | CO | CH4O
product | 2,4-Diamino-6-methoxypyrimidine 3-oxide | NC1=NC(=CC(=[N+]1[O-])N)OC | C5H8N4O2
